US07148226B2
5-methyl-4-(2-morpholin-4-ylethyl)-4H-1,2,4-triazole-3-thiol
The title compound was prepared by a modification of a procedure reported for related compounds: Henichart, J. P.; Bernier, J. L. Synthesis 1980, 4, 311. Acetic hydrazide (3.7 g, 50 mmol) in ethanol (50 mL) was placed in a 200 mL 3-necked round bottomed flask outfitted with a magnetic stir bar and a reflux condenser. 2-morpholinoethyl isothiocyanate (8.61 g, 500 mmol) in ethanol (50 mL) was added to the pot. The mixture was refluxed, under N2, for 6 h. The reaction was cooled to room temperature and the solvent removed on the rotovap. The resulting resin was dissolved in minimal ethanol and ether. A white solid precipitated out, was filtered and washed with cold ether. The filtrate, containing uncyclized intermediate, was concentrated and dissolved in xylenes. The mixture was refluxed under N2 for 8 h, then allowed to sit at room temperature, under N2. for 48 h. A white solid formed, was filtered and washed with cold ether. The first and second batches of white solid were combined to yield 7.33 g (64%) of the desired product.

reactant | Acetic hydrazide | 50 mmol, 3.7 g | C(C)(=O)NN | C2H6N2O
reactant | 2-morpholinoethyl isothiocyanate | 500 mmol, 8.61 g | O1CCN(CC1)CCN=C=S | C7H12N2OS
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 5-methyl-4-(2-morpholin-4-ylethyl)-4H-1,2,4-triazole-3-thiol | 7.33 g, 64% | CC=1N(C(=NN1)S)CCN1CCOCC1 | C9H16N4OS
